US08859505B2
Step a) 2-(1-((tert-butoxycarbonyl)amino)cyclobutyl)-2-hydroxyacetic acid (BB1-a)
To a solution of 1-tert-butoxycarbonylamino-cyclobutanecarboxylic acid (3 g, 13.94 mmol) in dry DMF (50 mL) was added N,O-dimethylhydroxylamine×HCl (1.36 g, 13.94 mmol) and DIEA (9.21 mL, 55.75 mmol). The reaction flask was cooled to 0° C. and after 10 minutes HATU (5.30 g, 13.94 mmol) was added to the solution (which turned yellow on addition). After 2 hrs the DMF was removed by rotary evaporation at reduced pressure. The residue was dissolved in EtOAc (100 mL) and washed twice with 10% citric acid (aq) and saturated NaHCO3(aq) solution. The organic phase was dried with Na2SO4, filtered and evaporated on silica. The product was purified by flash chromatography (heptane: ethyl acetate (1:1) to give the product as a colourless oil that slowly crystallizes (3.13 g) in 87% yield.

reactant | 1-tert-butoxycarbonylamino-cyclobutanecarboxylic acid | 13.94 mmol, 3 g | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | HCl | 13.94 mmol, 1.36 g | Cl | ClH
reactant | DIEA | 55.75 mmol, 9.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 13.94 mmol, 5.30 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(1-((tert-butoxycarbonyl)amino)cyclobutyl)-2-hydroxyacetic acid | 87% yield | C(C)(C)(C)OC(=O)NC1(CCC1)C(C(=O)O)O | C11H19NO5
